US08865713B2
Step C: 5-Chloro-6-methoxy-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole.
To a mixture of 5-chloro-6-methoxy-1H-benzoimidazole (0.320 g, 1.75 mmol) and THF (10 mL), was added DIPEA (0.850 mL, 4.9 mmol) followed by 1-chloromethoxy-2-methoxy-ethane (0.310 g, 2.45 mmol) at 23° C. After stirring for 18 h, EtOAc (50 mL) was added. The organic layer was washed with brine (20 mL), dried, filtered, and concentrated under reduced pressure to afford (0.31 g) of crude material which was used without further purification in the next reaction.

reactant | 5-chloro-6-methoxy-1H-benzoimidazole | 1.75 mmol, 0.320 g | ClC1=CC2=C(NC=N2)C=C1OC | C8H7ClN2O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | DIPEA | 4.9 mmol, 0.850 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chloromethoxy-2-methoxy-ethane | 2.45 mmol, 0.310 g | ClCOCCOC | C4H9ClO2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-Chloro-6-methoxy-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole | 0.31 g | ClC1=CC2=C(N(C=N2)COCCOC)C=C1OC | C12H15ClN2O3
